simulator lang=spectre
global 0

ahdl_include "./dut/absolute_value_behavior.va"

Vin (sigin 0) vsource type=pwl wave=[0 -0.4 10n -0.4 10.1n 0.3 20n 0.3 20.1n -0.1 35n -0.1]
XDUT (sigin sigout) absolute_value_behavior

simulatorOptions options evas_profile=balanced

tran tran stop=30n maxstep=25p
save sigin sigout
